### ISSUE TITLE
app - add bgs for deeper windows

### ISSUE THREAD

**Issue by lakesare** [Paper-Proof/paper-proof#16]
<img width="1091" alt="image" src="https://github.com/Paper-Proof/paper-proof/assets/7578559/c794a035-9753-4a63-ad1f-9e7c6dabccf9">

```
theorem theorem_7 (p q r : Prop) : p ∧ (q ∨ r) ↔ (p ∧ q) ∨ (p ∧ r) := by
  apply Iff.intro
  intro h
  cases h.right
  exact Or.inl ⟨h.left, ‹q›⟩

  exact Or.inr ⟨h.left, ‹r›⟩
  intro h
  cases h

  rename_i hpq
  exact ⟨hpq.left, Or.inl hpq.right⟩

  rename_i hpr
  -- exact ⟨hpr.left, Or.inr hpr.right⟩
  apply And.intro
  exact hpr.left
```

**Comment by lakesare** [comment]
<img width="1383" alt="image" src="https://github.com/Paper-Proof/paper-proof/assets/7578559/cc806699-4b98-4234-9e34-f03614affbae">

Fixed by https://github.com/Paper-Proof/paper-proof/commit/cc9a847c9ab5182e712f396dfe15650e28ddd740
